US05472933
N-(1,1-Dimethylethyl)-2-[(methoxyimino)methyl]-1H-pyrrole-3-sulfonamide
To a suspension of 3.91 g (46.8 mmol) of methoxyamine hydrochloride in 60 mL of methanol was added 3.84 g (46.8 mmol) of sodium acetate. After stirring the white suspension for ca. 15 minutes 5.72 g (23 mmol) of N-(1,1-dimethylethyl)-2-formyl-1-methyl-1H-pyrrole-3-sulfonamide was added in one portion. The white suspension was heated at a gentle reflux overnight ca. 16 hours. The reaction mixture was cooled to room temperature and poured into 500 mL of water. The aqueous mixture was extracted with four 100 mL portions of methylene chloride. The combined extracts were washed with water, dried (MgSO4) and concentrated in vacuo yielding 5.74 g of the title compound as a white solid, m.p. 99°-101° C. 1H NMR (CDCl3, 200 MHz.) δ: 8.51(s,1H), 6.66(d,1H), 6.54(d,1H), 4.82(bs,1H), 3.97(s,3H), 3.82(s,3H), 1.24(s, 9H).

reactant | methoxyamine hydrochloride | 46.8 mmol, 3.91 g | Cl.CON
reactant | sodium acetate | 46.8 mmol, 3.84 g | C(C)(=O)[O-].[Na+]
reactant | N-(1,1-dimethylethyl)-2-formyl-1-methyl-1H-pyrrole-3-sulfonamide | 23 mmol, 5.72 g | CC(C)(C)NS(=O)(=O)C1=C(N(C=C1)C)C=O | C10H16N2O3S
reactant | water | 500 mL | O | H2O
solvent | methanol | 60 mL | CO | CH4O
product | N-(1,1-Dimethylethyl)-2-[(methoxyimino)methyl]-1H-pyrrole-3-sulfonamide | 5.74 g | CC(C)(C)NS(=O)(=O)C1=C(NC=C1)C=NOC | C10H17N3O3S
